US09402841B2
Step D: (S)-tert-butyl 3-((7-fluoro-3-(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)isoquinolin-1-yl)oxy)pyrrolidine-1-carboxylate
To a solution of (S)-tert-butyl 3-((7-fluoro-3-(hydrazinyl(imino)methyl)isoquinolin-1-yl)oxy)pyrrolidine-1-carboxylate (0.45 g, 1.12 mmol) in dioxane (10 mL) was added CDI (0.72 g, 2.24 mmol) under N2. The mixture was heated to reflux for 2 hours and was subsequently concentrated in vacuo. The crude product was purified by preparative HPLC to give the title compound (70 mg, 40%). ESI-MS m/z [M+H-Boc]+ 316.

reactant | (S)-tert-butyl 3-((7-fluoro-3-(hydrazinyl(imino)methyl)isoquinolin-1-yl)oxy)pyrrolidine-1-carboxylate | 1.12 mmol, 0.45 g | FC1=CC=C2C=C(N=C(C2=C1)O[C@@H]1CN(CC1)C(=O)OC(C)(C)C)C(=N)NN | C19H24FN5O3
reactant | CDI | 2.24 mmol, 0.72 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (S)-tert-butyl 3-((7-fluoro-3-(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)isoquinolin-1-yl)oxy)pyrrolidine-1-carboxylate | 70 mg, 40% | FC1=CC=C2C=C(N=C(C2=C1)O[C@@H]1CN(CC1)C(=O)OC(C)(C)C)C1=NNC(N1)=O | C20H22FN5O4
